US03952031
3α-Hydroxy-2β-methoxy-5α-pregn-16-en-20-one
2α,3α-Epoxy-5α-pregn-16-en-20-one (500 mg.) in methanol (30 ml.) was treated with concentrated sulphuric acid (0.1 ml.). The reaction solution was stirred at room temperature for 10 minutes, and then potassium bicarbonate solution (10%, 6 ml.) and water were added and the precipitate was extracted into chloroform. The chloroform solution was evaporated to an oil which was purified by preparative TLC in ethyl acetate/petrol (1/2), to give, as the major product title compound (255 mg) as colourless plates (from ethyl acetate/petrol), m.p. 186°-189°, [α]D (c, 0.82) + 62° , λmax (EtOH) 239 nm (ε 8370).

reactant | 2α,3α-Epoxy-5α-pregn-16-en-20-one | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H30O2
reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium bicarbonate | 6 ml | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 3α-Hydroxy-2β-methoxy-5α-pregn-16-en-20-one | 255 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(C[C@@H]1OC)C)C | C22H34O3
